US07335660B2
f) 1-(2-Hydroxyethyl)-1,3-dihydro-2-benzofuran-5-carboxamide
Prepared from 1-[2-(tert-butyldimethylsilanoxy)-ethyl]-1,3-dihydro-2-benzofuran-5-carboxamide, as described for the preparation of (1S)-1-(2-hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide.

reactant | 1-[2-(tert-butyldimethylsilanoxy)-ethyl]-1,3-dihydro-2-benzofuran-5-carboxamide | O([Si](C)(C)C(C)(C)C)CCC1OCC2=C1C=CC(=C2)C(=O)N | C17H27NO3Si
reactant | (1S)-1-(2-hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide | OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C12H15NO3
product | 1-(2-Hydroxyethyl)-1,3-dihydro-2-benzofuran-5-carboxamide | OCCC1OCC2=C1C=CC(=C2)C(=O)N | C11H13NO3
